US06605601B2
Step 6: 7-Ethyl-2-(4-hydroxy-bicyclo[2.2.2]oct-1-yl)-4-propyl-1,4,6,7-tetrahydro-1,3,4,5a,8-pentaaza-as-indacen-5-one (Compound 2)
8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-6-(1-hydroxymethyl-propylamino)-3-propyl-3,7-dihydro-purin-2-one (110 mg) was dissolved in 3 mL of SOCl2 and stirred under reflux for 20 min. It was then cooled to rt and concentrated. The residue was quenched with saturated aq NaHCO3 and extracted with CHCl3. The combined organic layers were dried (Na2SO4) and concentrated under reduced pressure. Purification by preparative HPLC afforded 50 mg of the titled compound as the TFA salt.

reactant | 8-(4-Hydroxy-bicyclo[2.2.2]oct-1-yl)-6-(1-hydroxymethyl-propylamino)-3-propyl-3,7-dihydro-purin-2-one | 110 mg | OC12CCC(CC1)(CC2)C2=NC=1N(C(N=C(C1N2)NC(CC)CO)=O)CCC | C20H31N5O3
solvent | SOCl2 | 3 mL | O=S(Cl)Cl | Cl2OS
product | 7-Ethyl-2-(4-hydroxy-bicyclo[2.2.2]oct-1-yl)-4-propyl-1,4,6,7-tetrahydro-1,3,4,5a,8-pentaaza-as-indacen-5-one | 50 mg | C(C)C1CN2C(N(C=3N=C(NC3C2=N1)C12CCC(CC1)(CC2)O)CCC)=O | C20H29N5O2
